US07786165B2
methyl 3-(4-{acetyl[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate
A solution of methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate (0.598 g, 1.60 mmol) and acetic anhydride (0.226 mL, 2.40 mmol) in pyridine (3 mL) was stirred at room temperature for 20 hr. The solvent was evaporated by concentration. The obtained residue was diluted with ethyl acetate, washed with 1 M hydrochloric acid and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30%-60% ethyl acetate/hexane) to give the title compound (0.649 g, yield 98%) as a colorless oil.

reactant | methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate | 1.60 mmol, 0.598 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)OC | C25H27NO2
reactant | acetic anhydride | 2.40 mmol, 0.226 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-(4-{acetyl[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate | 0.649 g, yield 98% | C(C)(=O)N(C1=CC=C(C=C1)CCC(=O)OC)CC=1C=C(C=CC1)C1=C(C=CC=C1C)C | C27H29NO3
